US07713994B2
6-(4-Fluoro-phenyl)-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione
A mixture of 6-Bromo-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione (272 mg, 0.578 mmole), N,N-dimethylformamide (2 mL), 4-fluorophenylboronic acid (202 mg, 1.44 mmole), tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (78 mg, 0.075 mmole), tri(t-butyl)phosphine (28 mg, 0.138 mmole) and cesium carbonate (377 mg, 1.16 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chlororform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo and treated with acetonitrile, filtered and dried to give a yellow-brown solid 138 mg (48%), mp 227-230° C.; MS (ESI): m/z 486.2 (M+H).

reactant | 6-Bromo-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 0.578 mmole, 272 mg | BrC=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C23H24BrN3O3
reactant | 4-fluorophenylboronic acid | 1.44 mmole, 202 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | tri(t-butyl)phosphine | 0.138 mmole, 28 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 1.16 mmole, 377 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 0.075 mmole, 78 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 6-(4-Fluoro-phenyl)-7-methoxy-4-[(4-piperidin-1-ylmethyl-phenylamino)-methylene]-4H-isoquinoline-1,3-dione | 138 mg, 48% | FC1=CC=C(C=C1)C=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)CN1CCCCC1 | C29H28FN3O3
